US07482417B2
20.0 g of sodium hydroxide was added to 56.33 g (0.75 mol) of 2-hydroxy-N-methylethylamine and 101.61 g water, after which 45.28 g (0.50 mol) of 1-chloro-2-methyl-2-propene was slowly added dropwise at room temperature. Upon completion of the dropping, the system was allowed to react for 15 hours at 80° C. Upon completion of the reaction, the 150 g of chloroform added and the system was washed with a sodium carbonate aqueous solution to remove the unreacted 2-hydroxy-N-methylethylamine, 2-hydroxy-N-methylethylamine hydrochloride, and sodium hydroxide, which yielded a chloroform solution of N-hydroxyethyl-N,2-dimethyl-2-propene-1-amine. 150 g of a 4 N hydrochloric acid aqueous solution was added to the chloroform solution, the N-hydroxyethyl-N,2-dimethyl-2-propene-1-amine was converted into a hydrochloride and extracted into the aqueous phase, and the water was removed by freeze drying, which yielded 55.50 g (0.34 mol; 67% yield) of 2-propene-1-aminium, N-hydroxyethyl-N,2-dimethyl, hydrochloride in the form of a white powder. The structure of the 2-propene-1-aminium, N-hydroxyethyl-N,2-dimethyl, hydrochloride thus obtained was confirmed by 1H-NMR (400 MHz).

reactant | sodium hydroxide | 20.0 g | [OH-].[Na+]
reactant | 2-hydroxy-N-methylethylamine | 0.75 mol, 56.33 g | OCCNC | C3H9NO
reactant | water | 101.61 g | O | H2O
reactant | 1-chloro-2-methyl-2-propene | 0.50 mol, 45.28 g | ClCC(=C)C | C4H7Cl
solvent | chloroform | 150 g | C(Cl)(Cl)Cl | CHCl3
product | N-hydroxyethyl-N,2-dimethyl-2-propene-1-amine | OCCN(CC(=C)C)C | C7H15NO
